US07071216B2
Nitrogen was bubbled through a solution of 2-bromo-1-methyl-4-nitrobenzene (1 eq) in dimethoxyethane and water (3:1) for 0.5 h. Bis(diphenylphosphino)ferrocene Palladium(II)chloride (0.05 eq) followed by 3-chloro-4-pyridine boronic acid hydrate (1 eq) and sodium carbonate (3 eq) was added and the mixture was heated to 90° C. for 16 h under nitrogen. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with brine and dried with sodium sulfate and concentrated. Purification on silica gel gave 3-chloro-4-(2-methyl-5-nitrophenyl)pyridine. MS: MH+=248.

reactant | 2-bromo-1-methyl-4-nitrobenzene | 1 eq | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | 3-chloro-4-pyridine boronic acid hydrate | 1 eq | O.ClC=1C=NC=CC1B(O)O
reactant | sodium carbonate | 3 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | water | O | H2O
catalyst | Bis(diphenylphosphino)ferrocene Palladium(II)chloride | 0.05 eq | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-chloro-4-(2-methyl-5-nitrophenyl)pyridine | ClC=1C=NC=CC1C1=C(C=CC(=C1)[N+](=O)[O-])C | C12H9ClN2O2
